US06303780B1
To a stirred, cooled (−20° C.) solution of 12.1 g (50 mmol) of 4′-chloro-2′-methoxy-2,2-dimethylpropionanilide in 150 mL of THF was added 87 mL (115 mmol) of 1.3 M s-BuLi in cyclohexane over 15 min. The dark solution was warmed to 0° C. and stirred for 1.2 h. The solution was re-cooled to −20° C. and treated with 14.3 mL (120 mmol) of ethyl trifluoroacetate over 5 min. The reaction was warmed to 0° C., stirred 15 min., and quenched with saturated aqueous NaHCO3. The mixture was extracted with hexanes and then with ether, and the combined organic extracts were washed sequentially with 0.5 N HCl, water, and brine. The solution was dried (MgSO4) and concentrated under reduced pressure to give a dark oil. The crude amide was dissolved in 20 mL of 1,2-dimethoxyethane and treated with 100 mL of 6 N aqueous HCl. The mixture was stirred at reflux for 2 h, cooled to 0° C., and brought to pH 9 with K2CO3. The mixture was extracted twice with ether, and the combined organic extracts were washed with brine, dried (MgSO4), and concentrated under reduced pressure to give an oily solid. This crude product was recrystallized from hexanes and a minimal amount of ethyl acetate to give 7.75 g (61%) of 2′-amino-5′-chloro-3′-methoxy-2,2,2-trifluoroacetophenone as yellow needles, mp 124.5-125.5° C. 1H NMR (300 MHz, CDCl3) δ 7.32-7.35(m, 1H); 6.87(br. s, 2H); 6.84(d, 1H, J=1.8 Hz); 3.92(s, 3H). High resolution mass spec: calculated for C9H8NO2ClF3(M+H)+: 254.0196, found: 254.0194. Analysis calculated for C9H7NO2ClF3: C, 42.62; H, 2.78; N, 5.52; Cl, 13.98. Found: C, 42.52; H, 3.04; N, 5.40; Cl, 13.74.

reactant | 4′-chloro-2′-methoxy-2,2-dimethylpropionanilide | 50 mmol, 12.1 g | ClC1=CC(=C(NC(C(C)(C)C)=O)C=C1)OC | C12H16ClNO2
reactant | s-BuLi | 115 mmol, 1.3 M, 87 mL | [Li]C(C)CC
reactant | ethyl trifluoroacetate | 120 mmol, 14.3 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | HCl | 6 N, 100 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 2′-amino-5′-chloro-3′-methoxy-2,2,2-trifluoroacetophenone | 7.75 g, 61% | NC1=C(C=C(C=C1OC)Cl)C(C(F)(F)F)=O | C9H7ClF3NO2
